US07405231B2
A solution of 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole (0.5 g, 1.5 mmol) and sodium 4-bromobenzenesulfinate (0.72 g, 3 mmol) in N,N-dimethyl formamide (20 ml) was stirred for 3 h at 60° C. After cooling the mixture was poured onto water, extracted with ethyl acetate (3×50 ml), the combined organic layers were washed with water, dried over sodium sulfate, concentrated in vacuo and crystallized from ether yielding 4-(4-bromo-benzenesulfonylmethyl)-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole as white crystalline product. Yield 0.6 g (77%)

reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 1.5 mmol, 0.5 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | sodium 4-bromobenzenesulfinate | 3 mmol, 0.72 g | BrC1=CC=C(C=C1)S(=O)[O-].[Na+]
solvent | N,N-dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(4-bromo-benzenesulfonylmethyl)-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | BrC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C19H13BrF3NO4S2
